US05214037
To a suspension of (Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetic acid ethyl ester (86 g : 0.4 Mol.) in dichloromethane (1200 ml) are added 4-dimethylaminopyridine (9.6 g : 79 mMol.) and then di-t-butyl dicarbonate (240 ml : 1.04 Mol.) dropwise at room temperature, and the mixture is stirred for 19 hours. The reaction mixture is mixed with 0.5N-hydrochloric acid (500 ml) and the dichloromethane layer is taken. The organic layer is washed with brine, dried over sodium sulfate, and concentrated. The residue is diluted with ethanol (200 ml) and concentrated again. To a solution of the residue in ethanol (300 ml) under ice cooling is added dropwise a solution of sodium hydroxide (64 g : 1.6 Mol.) in water (300 ml), and the mixture is stirred under ice cooling for 30 minutes and at room temperature for 19 hours. The reaction mixture is mixed with concentrated hydrochloric acid (140 ml) and ice water (1000 ml) and extracted with ethyl acetate. The extract is washed with water, dried over sodium sulfate, and concentrated. The resulting crystalline residue is washed with water, dried, and washed with ether to give (Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-hydroxyiminoacetic acid (86.3 g) as colorless crystals. mP 170° to 173° C. (decomposition).

reactant | (Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetic acid ethyl ester | 0.4 Mol, 86 g | C(C)OC(\C(=N/O)\C=1N=C(SC1)N)=O | C7H9N3O3S
reactant | di-t-butyl dicarbonate | 1.04 Mol, 240 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 500 ml | Cl | ClH
reactant | sodium hydroxide | 1.6 Mol, 64 g | [OH-].[Na+]
reactant | hydrochloric acid | 140 ml | Cl | ClH
solvent | dichloromethane | 1200 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 79 mMol, 9.6 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
product | (Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-hydroxyiminoacetic acid | 86.3 g | C(C)(C)(C)OC(=O)NC=1SC=C(N1)/C(/C(=O)O)=N/O | C10H13N3O5S
